### PR TITLE
[Merged by Bors] - feat: characterize Fredholm projections

### PR DESCRIPTION
**Pull request by ADedecker**
---

- [x] depends on: #41602 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/Complement.lean [hunk 1]
```diff
@@ -197,11 +197,15 @@ theorem ker_projectionOntoL (h : IsTopCompl p q) :
     (p.projectionOntoL q h).ker = q := by
   simp
 
-theorem isQuotientMap_projectionOntoL (h : IsTopCompl p q) :
-    IsQuotientMap (p.projectionOntoL q h) :=
+theorem isQuotientMap_projectionOnto (h : IsTopCompl p q) :
+    IsQuotientMap (p.projectionOnto q h.isCompl) :=
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Module/Complement.lean:201]: this makes me think `coe_projectionOntoL` should be `simp low` so that you don't need to duplicate this lemma

**Review by themathqueen — COMMENTED** [review]
can you also add the idempotent version, i.e., `IsFredholm f ↔ FiniteDimensional 𝕜 f.ker` for idempotent `f`?

File: Mathlib/Topology/Algebra/Module/Complement.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/Complement.lean:201]: I don't have a clear mental picture of how priorities work with `simp`, are they just "try all of these before all of those" ?

Comment (themathqueen) [reply Mathlib/Topology/Algebra/Module/Complement.lean:201]: I think so. I guess the other option might be to just add `simp [-coe_projectionOntoL]` to the proof that needs it?

File: Mathlib/Analysis/Normed/Operator/Fredholm/Basic.lean [hunk 2]
```diff
@@ -537,6 +556,31 @@ theorem isFredholm_codRestrict_iff {f : E →L[𝕜] F} {B : Submodule 𝕜 F}
 
 alias ⟨IsFredholm.of_codRestrict, IsFredholm.codRestrict⟩ := isFredholm_codRestrict_iff
 
+theorem _root_.Submodule.isFredholm_projectionL {p q : Submodule 𝕜 E}
+    (hcompl : IsTopCompl p q)
+    [FiniteDimensional 𝕜 q] :
+    IsFredholm (p.projectionL q hcompl) :=
+  have : p.CoFG := FG.cofg_of_isCompl hcompl.isCompl.symm .of_finite
+  isFredholm_subtypeL hcompl.isClosed |>.comp <| isFredholm_projectionOntoL hcompl
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Operator/Fredholm/Basic.lean]: I think you can weaken the hypotheses by a lot if you just do this manually rather than going through `.comp`. And the proofs should all be one-liners anyway, so why not, it'll make all 4 lemmas below more general.

**Review by themathqueen — APPROVED** [review]
Besides these two comments (i.e., moving the `projectionL` stuff up and weakening the hypotheses, and maybe changing the simp priority of the coercion lemma so that you don't need to duplicate the lemma), I think this is ready to go.

File: Mathlib/Analysis/Normed/Operator/Fredholm/Basic.lean [hunk 3]
```diff
@@ -462,6 +462,56 @@ theorem _root_.Submodule.isFredholm_mkQL {p : Submodule 𝕜 E} (hcompl : p.Clos
...
+    IsFredholm (p.projectionOntoL q hcompl) :=
+  isFredholm_projectionOntoL_iff hcompl |>.mpr inferInstance
+
+theorem _root_.FredholmDecomposition.isFredholm_proj [ContinuousSub E]
+    (dec : FredholmDecomposition 𝕜 E) :
+    IsFredholm dec.proj :=
+  have := dec.finite_X₀
+  isFredholm_projectionOntoL dec.isTopCompl
+
+theorem _root_.Submodule.isFredholm_projectionL [ContinuousSub E] [T2Space E] {p q : Submodule 𝕜 E}
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Operator/Fredholm/Basic.lean]: I think this is enough?
```suggestion
theorem _root_.Submodule.isFredholm_projectionL [ContinuousSub E] {p q : Submodule 𝕜 E} [T1Space q]
```

File: Mathlib/Topology/Algebra/Module/Complement.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/Complement.lean:201]: I've tried it, but when implementing your other suggestion I realized it was just annoying not to have a version of [Submodule.isQuotientMap_projectionOntoL](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Module/Complement.html#Submodule.isQuotientMap_projectionOntoL) in simp normal form. I personally think that the duplication is really not too bad.

Comment (themathqueen) [reply Mathlib/Topology/Algebra/Module/Complement.lean:201]: Yeah, good point.

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

**Review by j-loreaux — COMMENTED** [review]
Looks good, thanks!

bors merge
